US07241785B2
To a solution of ethyl-3-ethoxy-5-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzoate (5.40 g) in tetrahydrofuran (80 ml) was gradually added aluminum lithium hydride (540 mg) at 0° C. and the mixture was stirred for 1 hr. Sodium sulfate 10 hydrate (4.60 g) was added to the reaction mixture and the mixture was further stirred for 30 min. The insoluble materials were filtered off, and the filtrate was concentrated. The obtained crystals were recrystallized from ethyl acetate-isopropyl ether to give 3-ethoxy-5-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyl alcohol (4.44 g, 92%) as colorless needle-shaped crystals. melting point: 103–104° C.

reactant | ethyl-3-ethoxy-5-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzoate | 5.40 g | C(C)OC(C1=CC(=CC(=C1)OCC=1N=C(OC1C)C1=CC=CC=C1)OCC)=O | C22H23NO5
reactant | aluminum lithium hydride | 540 mg | [H-].[Li+].[Al+3].[H-].[H-].[H-]
reactant | Sodium sulfate 10 hydrate | 4.60 g | O.O.O.O.O.O.O.O.O.O.[O-]S(=O)(=O)[O-].[Na+].[Na+]
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
product | 3-ethoxy-5-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyl alcohol | 4.44 g, 92% | C(C)OC=1C=C(CO)C=C(C1)OCC=1N=C(OC1C)C1=CC=CC=C1 | C20H21NO4
